US08222219B2
5-Bromo-2-chloro-1-(5-methoxybenzo[b]thiophene-2-ylmethyl)benzene obtained in Reference Example 54 was treated in a manner similar to Reference Example 132-(1) to give 5-bromo-2-chloro-1-(5-hydroxybenzo[b]thiophen-2-ylmethyl)benzene. ESI-Mass m/Z 351/353 (M−H). (2) The above 5-bromo-2-chloro-1-(5-hydroxybenzo[b]thiophen-2-ylmethyl)benzene and iodoethane were treated in a manner similar to Reference Example 132-(2) to give the desired 5-Bromo-2-chloro-1-(5-ethoxybenzo[b]thiophene-2-ylmethyl)-benzene. APCI-Mass m/Z 382/380 (M+H).

reactant | 5-bromo-2-chloro-1-(5-hydroxybenzo[b]thiophen-2-ylmethyl)benzene | BrC=1C=CC(=C(C1)CC1=CC2=C(S1)C=CC(=C2)O)Cl | C15H10BrClOS
reactant | iodoethane | ICC | C2H5I
product | 5-Bromo-2-chloro-1-(5-ethoxybenzo[b]thiophene-2-ylmethyl)-benzene | BrC=1C=CC(=C(C1)CC1=CC2=C(S1)C=CC(=C2)OCC)Cl | C17H14BrClOS
